US04302464
C. 4-(2-ethylamino-4-pyridyl)imidazole-2-thiol
To 20 ml. of absolute ethanol containing 240 mg. of dissolved sodium was added 1.79 g. (10 mmoles) of 1-(2-ethylamino-4-pyridyl)-1-ethanone oxime, and the mixture stirred until homogeneous (~5 minutes). p-Toluenesulfonyl chloride (2.04 g., 10.7 mmole) was added and the mixture stirred at room temperature under nitrogen for 1 hour. the mixture was added to a solution of potassium ethoxide (prepared by dissolving 430 mg. of potassium in 20 ml. of absolute ethanol) and the resulting mixture allowed to stir at room temperature for 0.5 hour. The resulting gelatinous suspension was diluted with 100 ml. of diethyl ether and stirred at room temperature for 30 minutes. The reaction was filtered through celite and the filtrate was concentrated. The residue was dissolved in 100 ml. of ether and any remaining solids filtered. The ether solution was extracted with 2 N hydrochloric acid (4×15 ml.) and the combined acid extracts concentrated to give a yellow solid. The residue was dissolved in 30 ml. of water containing 1.94 g. (20 mmoles) of potassium thiocyanate and the solution heated on a steam bath for 2 hours. After cooling, the mixture was made basic with sodium sodium carbonate and the precipitate filtered, washed with water and dried, 1.27 g. (58%), m.p. >260° C.

reactant | sodium | [Na] | Na
reactant | 1-(2-ethylamino-4-pyridyl)-1-ethanone oxime | 10 mmoles | C(C)NC1=NC=CC(=C1)C(C)=NO | C9H13N3O
reactant | p-Toluenesulfonyl chloride | 10.7 mmole, 2.04 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | potassium ethoxide | 20 ml, 430 mg | [O-]CC.[K+]
reactant | potassium thiocyanate | 20 mmoles | [S-]C#N.[K+]
reactant | sodium sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1.94 g | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 240 mg | C(C)O | C2H6O
product | 4-(2-ethylamino-4-pyridyl)imidazole-2-thiol | C(C)NC1=NC=CC(=C1)C=1N=C(NC1)S | C10H12N4S
